US04968340
Preparation of isopropylammonium 2-(4,6-dimethoxypyrimidin-2-yl)thio-2-cyclopentyl acetate (Compound No. 414)
A mixture of 5.0 g of 2-(4,6-dimethoxypyrimidin-2-yl)thio-2-cyclopentyl acetic acid, 1.0 g of isopropylamine and 80 ml of methanol was stirred at room temperature for 1.5 hours. Methanol was removed by distillation under reduced pressure. Isopropyl ether was added to the residue, and the mixture was stirred at room temperature for 0.5 hour. Formed crystals were collected by filtration, washed with n-hexane and then dried to obtain 4.3 g of the desired product.

reactant | 2-(4,6-dimethoxypyrimidin-2-yl)thio-2-cyclopentyl acetic acid | 5.0 g | COC1=NC(=NC(=C1)OC)SC(C(=O)O)C1CCCC1 | C13H18N2O4S
reactant | isopropylamine | 1.0 g | C(C)(C)N | C3H9N
solvent | methanol | 80 ml | CO | CH4O
product | isopropylammonium 2-(4,6-dimethoxypyrimidin-2-yl)thio-2-cyclopentyl acetate | 4.3 g | COC1=NC(=NC(=C1)OC)SC(C(=O)[O-])C1CCCC1.C(C)(C)[NH3+] | InChI=1S/C13H18N2O4S.C3H9N/c1-18-9-7-10(19-2)15-13(14-9)20-11(12(16)17)8-5-3-4-6-8;1-3(2)4/h7-8,11H,3-6H2,1-2H3,(H,16,17);3H,4H2,1-2H3
